US08431695B2
Preparation of 2-{3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidin-1-yl}ethanol
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (100 mg, 0.22 mmol) in THF (1.5 mL) was added (2-bromoethoxy)-tert-butyldimethylsilane (51 μL, 0.24 mmol) and N,N-diisopropylethylamine (114 μl, 0.65 mmol). The reaction was heated at 60° C. for 17 h and then cooled to rt. Additional (2-bromoethoxy)-tert-butyldimethylsilane (51 μL) and N,N-diisopropylethylamine (114 μl) were added and the mixture continued to stir at 60° C. for 64 h. The crude mixture was purified by preparative HPLC using a gradient elution from 20% to 50% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated. A solution of the residue in 1% HCl in 95:5 EtOH/H2O (4 mL) was stirred at rt for 16 h. The mixture was basified (pH 9) with the addition of saturated, aqueous NaHCO3 solution and was evaporated to remove volatiles. The aqueous mixture was extracted with ethyl acetate (3×15 mL) and the combined organic layers were washed with brine, dried (Na2SO4) and concentrated.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.22 mmol, 100 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C25H25N7
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 0.24 mmol, 51 μL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | N,N-diisopropylethylamine | 0.65 mmol, 114 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 51 μL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | N,N-diisopropylethylamine | 114 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 2-{3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidin-1-yl}ethanol | NC1=NC=NN2C1=C(C=C2C2CN(CCC2)CCO)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H29N7O
